US07319096B2
Methyl-2-tert-butoxycarbonylamino-3-(3,5-dibromo-4-hydroxyphenyl)-propionate (0.20 g, 0.44 mmol) was coupled with 3,5-dimethyl benzylbromide (0.22 g, 1.1 mmol), using the method described in Example 2. After deprotection and final purification on HPLC, using the same conditions as described in Example 1(b), 70 mg (35%) of 2-amino-3-[3,5-dibromo-4-(3,5-dimethylbenzyloxy)phenyl]propionic acid was obtained. LC-MS (electrospray): m/z 458 (M+1).

reactant | Methyl-2-tert-butoxycarbonylamino-3-(3,5-dibromo-4-hydroxyphenyl)-propionate | 0.44 mmol, 0.20 g | COC(C(CC1=CC(=C(C(=C1)Br)O)Br)NC(=O)OC(C)(C)C)=O | C15H19Br2NO5
reactant | 3,5-dimethyl benzylbromide | 1.1 mmol, 0.22 g | CC=1C=C(CBr)C=C(C1)C | C9H11Br
product | 2-amino-3-[3,5-dibromo-4-(3,5-dimethylbenzyloxy)phenyl]propionic acid | 70 mg, 35% | NC(C(=O)O)CC1=CC(=C(C(=C1)Br)OCC1=CC(=CC(=C1)C)C)Br | C18H19Br2NO3
